US07851634B2
9 5-Bromo-3-(3-methoxypropyl)-1-methyl-1H-indazole
A solution of 54.00 g of 5-bromo-3-(3-methoxyprop-1-ynyl)-1-methyl-1H-indazole in 1700 ml of methanol is admixed at room temperature with 20.58 g of 10% Pd/C. The mixture is hydrogenated over 1.5 hours and clarified by filtration, and the filtrate is concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.56 (1:1 EtOAc-heptane). Rt=4.37 (gradient I).

reactant | 5-bromo-3-(3-methoxyprop-1-ynyl)-1-methyl-1H-indazole | 54.00 g | BrC=1C=C2C(=NN(C2=CC1)C)C#CCOC | C12H11BrN2O
solvent | methanol | 1700 ml | CO | CH4O
catalyst | Pd/C | 20.58 g | [Pd] | Pd
product | 5-Bromo-3-(3-methoxypropyl)-1-methyl-1H-indazole | BrC=1C=C2C(=NN(C2=CC1)C)CCCOC | C12H15BrN2O
